US06166037
1-Benzyl-3-(SR)-(4-hydroxypiperidin-1-ylmethyl)-4-(SR)-phenyl-pyrrolidine
The title compound was prepared from 500 mg of 1-Benzyl-3-(SR)-formyl-4-(SR)-phenylpyrrolidine, 196 mg of 4-hydroxypiperidine and 597 mg of sodium triacetoxyborohydride using a procedure analogous to that described in Example 9, Step B to provide 348 mg of the title compound. RF : 0.16 (5% MeOH in CH2Cl3). 1H NMR (300 MHz, CDCl3): δ1.35-1.54 (m, 2H), 1.69-1.83 (m, 2H), 1.93-2.05 (m, 2H), 2.36-2.71 (m, 7H), 3.89-3.01 (m, 3H), 3.55-3.72 (m, 3H), 7.14-7.38 (m, 10H). Mass Spectrum (NH3 -CI): 351.3 (M+H).

reactant | 1-Benzyl-3-(SR)-formyl-4-(SR)-phenylpyrrolidine | 500 mg | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC=CC=C1)C=O | C18H19NO
reactant | 4-hydroxypiperidine | 196 mg | OC1CCNCC1 | C5H11NO
reactant | sodium triacetoxyborohydride | 597 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 1-Benzyl-3-(SR)-(4-hydroxypiperidin-1-ylmethyl)-4-(SR)-phenyl-pyrrolidine | 348 mg | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC=CC=C1)CN1CCC(CC1)O | C23H30N2O
